US07671066B2
Preparation of 1-p-tolyl-cyclopropanecarboxylic acid, (Z)-2-(3,5-dichloro -pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester (CHF 5557)
The compound was obtained starting from 1-p-tolyl-cyclopropanecarbonyl chloride and 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone, following the procedure of Example 7.

reactant | 1-p-tolyl-cyclopropanecarbonyl chloride | C1(=CC=C(C=C1)C1(CC1)C(=O)Cl)C | C11H11ClO
reactant | 2-(3,5-dichloro-pyridin-4-yl)-1-(3,4-dimethoxy -phenyl)-ethanone | ClC=1C=NC=C(C1CC(=O)C1=CC(=C(C=C1)OC)OC)Cl | C15H13Cl2NO3
product | 1-p-tolyl-cyclopropanecarboxylic acid, (Z)-2-(3,5-dichloro -pyridin-4-yl)-1-(3,4-dimethoxy-phenyl)vinyl ester | C1(=CC=C(C=C1)C1(CC1)C(=O)O\C(=C/C1=C(C=NC=C1Cl)Cl)\C1=CC(=C(C=C1)OC)OC)C | C26H23Cl2NO4
